US07842684B2
Glycyl-3-cyclohexyl-D-alanine
N-(tert-butoxycarbonyl)glycine (2.0 g, 11.4 mmol) and DIPEA (4.0 g, 31 mmol) were dissolved in methylene chloride (25 ml). TBTU (4.1 g, 12.8 mmol) was added and the mixture was stirred for 15 min at room temperature. 3-cyclohexyl-D-alanine (2.1 g, 12.2 mmol) was added and the reaction mixture was stirred over night at room temperature. The reaction mixture was transferred to a separation funnel and was then extracted with a water/acetic acid solution (100 ml 5% acetic acid). The organic layer was separated and evaporated under reduced pressure. The residue was dissolved in formic acid (20 ml) and the mixture was stirred over night at 40° C. The formic acid was removed under reduced pressure. The residue was washed with water (50 ml) and then stirred in acetone (25 ml) for 1 h at room temperature. The solid material was filtered off and washed with acetone (20 ml). The title compound was obtained.

reactant | N-(tert-butoxycarbonyl)glycine | 11.4 mmol, 2.0 g | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | DIPEA | 31 mmol, 4.0 g | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 12.8 mmol, 4.1 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 3-cyclohexyl-D-alanine | 12.2 mmol, 2.1 g | C1(CCCCC1)C[C@@H](N)C(=O)O | C9H17NO2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | Glycyl-3-cyclohexyl-D-alanine | NCC(=O)N[C@H](CC1CCCCC1)C(=O)O | C11H20N2O3
